US09108936B2
To a stirred solution of 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile (synthesized according to the method described in section a) of example 2) (1.00 g, 4.73 mmol) in dichloromethane (20 ml) is added meta-chloroperoxybenzoic acid (0.58 g, 2.36 mmol, 70% suspension) portion wise at 0° C. The resulting mixture is stirred at 0° C. for 15 min. The white suspension is dissolved in ethyl acetate (25 ml) and the solvent is distilled off. The residue is again diluted with ethyl acetate (15 ml) and washed with 10% sodium sulphite solution (3×15 ml), saturated sodium hydrogen sulfate solution (3×15 ml), brine (15 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 8% ethyl acetate/hexane) to yield 4-chloro-2-(ethylsulfinyl)-6-methyl-benzonitrile (0.4 g, 1.76 mmol, 37%).

reactant | 4-chloro-2-ethylsulfanyl-6-methyl-benzonitrile | ClC1=CC(=C(C#N)C(=C1)C)SCC | C10H10ClNS
reactant | meta-chloroperoxybenzoic acid | 2.36 mmol, 0.58 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-(ethylsulfinyl)-6-methyl-benzonitrile | 1.76 mmol, 0.4 g, 37% | ClC1=CC(=C(C#N)C(=C1)C)S(=O)CC | C10H10ClNOS
